US05344843
Bromoacetyl chloride (0.25 mL) was added slowly to a chilled (ice-water-bath) solution of cyclooctylamine (0.763g) in dichloromethane (15 mL) and the mixture was stirred with cooling for 45 minutes, then at room temperature overnight. After water (20 mL) was added, the layers were separated and the dried organic layer (MgSO4) was evaporated to provide 0.7 g of N-cycloocyl-bromoacetamide. A solution of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.605 g) in dimethylformamide (8 mL) under argon was treated with 55% sodium hydride (0.147 g), stirred for 30 minutes and then N-cyclooctyl-bromoacetamide (0.7 g) in dimethylformamide (5 mL) was added. The solution was stirred at room temperature for 18 hours and worked up as in Example 20. The crude material was purified by flash chromatography (ethyl acetate-hexane; 3:7) to yield 0.4 g of 4-[2-(cyclooctylamino)-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester as an oil.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.605 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.147 g | [H-].[Na+]
reactant | N-cyclooctyl-bromoacetamide | 0.7 g | C1(CCCCCCC1)NC(CBr)=O | C10H18BrNO
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[2-(cyclooctylamino)-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester | 0.4 g | COC(C(C1=CC=C(C=C1)OCC(=O)NC1CCCCCCC1)=O)=O | C19H25NO5
